US08541596B2
N-(4-Methoxybenzyl)-3H-benzo[d]imidazol-5-amine
Alternatively the compound was synthesized starting from benzimidazol-5-amine (2.66 g; 20 mmol; 1 eq.), 4-methoxybenzaldehyde (3.26 g; 2.9 ml; 24 mmol; 1.2 eq.), NaBH4 (1.14 g; 30 mmol; 1.5 eq.) and 5 N NaOH (20 ml; 100 mmol; 5 eq.) according to method 2; Yield: 4.53 g (89.5%); MS m/z: 254.3 [M+H]+

reactant | benzimidazol-5-amine | 20 mmol, 2.66 g, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-methoxybenzaldehyde | 24 mmol, 2.9 ml, 3.26 g, 1.2 eq. | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | NaBH4 | 30 mmol, 1.14 g, 1.5 eq. | [BH4-].[Na+]
reactant | NaOH | 100 mmol, 5 N, 20 ml, 5 eq. | [OH-].[Na+]
product | N-(4-Methoxybenzyl)-3H-benzo[d]imidazol-5-amine | COC1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C15H15N3O
